2172-07-10 07:06:00 Physician Resident Progress Note
Chief Complaint: pain
   43 yo female with chronic pain who is POD 2 s/p hip surgery.
   24 Hour Events:
   Pain following.  Patient had maxed out doses of scheduled pain meds
   during the day yesterday and was requiring 1mg boluses of IV dilaudid
   q2 hrs during the day in addition to scheduled pain meds   She is not
   on a basal rate of dilaudid PCA and would not press button while slept
   overnight so would wake up in severe pain. Gave 1 mg dilaudid q 2-4 hrs
   overnight.
   Ortho stopped by and said they could go to the floor if pain is okay
   with it.
   Would like her to get 2 units of PRBCs.
   Subjective: patient reports [**4-25**] pain this morning but appears to be
   comfortable.
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2172-7-9**] 03:07 PM
   Infusions:
   Ketamine - 30 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2172-7-10**] 06:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-7-10**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 96 (94 - 111) bpm
   BP: 95/47(59) {70/38(49) - 107/61(69)} mmHg
   RR: 16 (9 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                 17,333 mL
                                                                    644 mL
   PO:
                                                                  1,580 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  4,153 mL
                                                                    284 mL
   Blood products:
                                                                 11,600 mL
   Total out:
                                                                  5,715 mL
                                                                    910 mL
   Urine:
                                                                  5,590 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
                                                                    125 mL
                                                                     50 mL
   Balance:
                                                                 11,618 mL
                                                                   -266 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula  4L
   ABG: ///24/
   Physical Examination
   Gen: well nourished woman in NAD
   CV: RRR, s1 & s2 nl, no m/r/g
   Lung: CTA in all lung fields
   Abd: + bs, tender to palpation in RLQ near hip surgery, nd, soft
   Ext: warm dry, 2+ peripheral pulses.
   Labs / Radiology
   119 K/uL
   8.6 g/dL
   119 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.4 mEq/L
   4 mg/dL
   109 mEq/L
   138 mEq/L
   23.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2172-7-9**]  04:51 AM
                             [**2172-7-9**]  01:52 PM
   WBC
   6.3
   7.6
   Hct
   24.0
   23.7
   Plt
   106
   119
   Cr
   0.5
   0.5
   Glucose
   111
   119
   Other labs: PT / PTT / INR:14.1/38.5/1.2, D-dimer:546 ng/mL,
   Fibrinogen:300 mg/dL, Albumin:2.1 g/dL,
    Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   No new images/cx data.
   Assessment and Plan
   This is a 43 year-old female with a history of bilateral hip dysplasia
   who is POD 2 for pain management after R periacetabular osteotomy, hip
   arthrotomy, and iliac bone graft.
   Plan:
   # Pain management: follow up with pain service re: adding a basal rate
   on dilaudid PCA while sleeping. Or recommendations for other PRN dosing
   of pain medications.
   - Patient is on max dose of ketamine drip, Oxycontin PO, dilaudid PCA,
   Tylenol, amitryptyline, neurotin
   - precidex has been d/c
 follow up with pain re: whether patient
   may be transferred to the floor.
   # Respiratory status: stable, no hypoxia, no apnea
   - currently SpO2 100% on 2L NC; will wean off O2; continue to monitor
   SpO2.
   # Hypotension: persists but stable, likely secondary to high dose pain
   meds.
   -good UOP and mentation; continue to monitor
   -give 500cc boluses of NS to maintain UOP and MAP > 65
   -attempt to titrate down pain medications
   -2 units of PRBC will help with hypotension
   #Anemia: Hct 23; baseline 32
   -per ortho will give 2 units of PRBC.
   -will repeat Hct this afternoon after 2 units of PRBC goal Hct > 21
   -will monitor daily
   .
   # FEN:  advance diet to regular as tolerated.
   .
   # Access: 18g and 20g
   .
   # PPx: enoxaparin & pneumoboots, push bowel regimen given high
   narcotics.
   .
   # Code:  FULL
   .
   # Dispo: to floor if pain agrees that it is appropriate.
   .
   # Comm: may discuss pts condition with boyfriend
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2172-7-9**] 12:00 AM
   20 Gauge - [**2172-7-9**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-07-10 10:22:00 Physician Attending Progress Note
Chief Complaint: acute on chronic pain post-op
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43F with chronic pain and large requirement of pain meds at baseline,
   s/p r hip arthroplasty with increased pain requirrement, admitted to
   icu for aggressive pain management that included a precedex gtt:
   24 Hour Events:
   -precedex stopped
   -pain control adequate but requires frequent boluses
   -some hypotension at night in the setting of pain med bolus, resolves
   when patient wakes up
   History obtained from Patient
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2172-7-9**] 03:07 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2172-7-10**] 08:18 AM
   Other medications:
   Changes to medical and family history: none
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2172-7-10**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 97 (94 - 111) bpm
   BP: 87/42(51) {70/38(49) - 108/59(67)} mmHg
   RR: 11 (9 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                 17,333 mL
                                                                    933 mL
   PO:
                                                                  1,580 mL
                                                                    540 mL
   TF:
   IVF:
                                                                  4,153 mL
                                                                    393 mL
   Blood products:
                                                                 11,600 mL
   Total out:
                                                                  5,715 mL
                                                                  1,430 mL
   Urine:
                                                                  5,590 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
                                                                    125 mL
                                                                     50 mL
   Balance:
                                                                 11,618 mL
                                                                   -497 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, dressing not taken off
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed, sleepy
   Labs / Radiology
   8.0 g/dL
   129 K/uL
   106 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   5 mg/dL
   109 mEq/L
   141 mEq/L
   22.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2172-7-9**]  04:51 AM
                             [**2172-7-9**]  01:52 PM
                             [**2172-7-10**]  03:57 AM
   WBC
   6.3
   7.6
   8.5
   Hct
   24.0
   23.7
   22.5
   Plt
   106
   119
   129
   Cr
   0.5
   0.5
   0.5
   Glucose
   111
   119
   106
   Other labs: PT / PTT / INR:15.0/33.7/1.3, D-dimer:546 ng/mL,
   Fibrinogen:300 mg/dL, Albumin:2.1 g/dL, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.3 mg/dL
   Imaging: no new imagin
   Assessment and Plan
   43F with chronic pain and large requirement of pain meds at baseline,
   s/p r hip arthroplasty with appropriate increased pain requirement,
   admitted to icu for aggressive pain management that included a precedex
   gtt, now off precedex gtt doing fairly well.  Pain service if following
   the patient closely. No other acute issues
   pain: acute on chronic
   -per pain service
   anemia: post-op
   -transfuse with prbc per ortho
   constipation:
   -more aggressive bowel regimen
   dispo:
   -ok to go to ortho floor today
   I was physically present with the resident and fellow team on this day
   and would agree in full with the note.  I would add that now that
   presidex has been D/C
d and patient has achieved reasonable pain
   control patient reasonable for transfer to floor with continued pain
   service support.
   ICU Care
   Nutrition:
   Advance diet as tolerated
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2172-7-9**] 02:00 AM
   18 Gauge - [**2172-7-10**] 09:20 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes